US06825189B1
1-[6-(N-Pyrrolidinyl)-3-pyridyl]-4-tert-butoxycarbonyl homopiperazine
A stirred solution of 1-(6-Bromo-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine (0.71 g, 2.0 mmol), pyrrolidine (2.0 g, 20 mmol), potassium tert-butoxide (0.45 g, 4.0 mmol), tetrakis(triphenylphosphine)palladium(0) (0.12 g, 0.10 mmol) and 1.2-dimethoxyethane was stirred at reflux overnight. Water (40 ml) was added and the mixture was extracted twice with ethyl acetate (20 ml) Chromatography on silica gel with a mixture of petroleum:ethyl acetate (1:1) gave the title compound as free base. Yield 0.21 g, 30%.

reactant | 1-(6-Bromo-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine | 2.0 mmol, 0.71 g | BrC1=CC=C(C=N1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H22BrN3O2
reactant | pyrrolidine | 20 mmol, 2.0 g | N1CCCC1 | C4H9N
reactant | potassium tert-butoxide | 4.0 mmol, 0.45 g | CC(C)([O-])C.[K+]
reactant | 1.2-dimethoxyethane | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 mmol, 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | 40 ml | O | H2O
product | 1-[6-(N-Pyrrolidinyl)-3-pyridyl]-4-tert-butoxycarbonyl homopiperazine | N1(CCCC1)C1=CC=C(C=N1)N1CCN(CCC1)C(=O)OC(C)(C)C | C19H30N4O2
